US05457099
Preparation of 4-(2-hydroxyethyl)-l-methyl-2(1H)-quinolinone
Methyl 1,2-dihydro-l-methyl-2-oxo-4-quinoline acetate (2.35 g, 10.16 mmol) was dissolved in dry tetrahydrofuran (50 ml) and sodium borohydride (1.92 g, 50.8 mmol) was added thereto. The mixture was refluxed. Under the same conditions, methanol (19 ml) was slowly added dropwise thereto (over 1 hour) and the mixture was refluxed for 1 hour. To the reaction mixture was acidified (pH about 2) with 2N-hydrochloric acid. The solvent was distilled off and water (300 ml) was poured to the residue. The mixture was extracted with chloroform (300 ml×3). The organic layer was separated, dried (over magnesium sulfate) and the solvent was distilled off. The residue was crystallized with ether to give the entitled compound (1.80 g) as white crystals (yield 87.2%, mp 149°-150 ° C. (chloroform--hexane)).

reactant | Methyl 1,2-dihydro-l-methyl-2-oxo-4-quinoline acetate | 10.16 mmol, 2.35 g | CN1C(C=C(C2=CC=CC=C12)CC(=O)OC)=O | C13H13NO3
reactant | sodium borohydride | 50.8 mmol, 1.92 g | [BH4-].[Na+]
reactant | methanol | 19 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(2-hydroxyethyl)-l-methyl-2(1H)-quinolinone | 1.80 g, yield 87.2% | OCCC1=CC(N(C2=CC=CC=C12)C)=O | C12H13NO2
